US03975537
A solution of 11.5 g. (0.07 mol.) of 3-methyl-4-methoxybenzoic acid and 10.7 g. (0.09 mol.) of thionyl chloride in 60 ml. of methylene chloride was refluxed on a steam bath for two hours. Concentration in vacuo and distillation of the residue gave 3-methyl-4-methoxybenzoic acid chloride, m.p. 37°-39°.

reactant | 3-methyl-4-methoxybenzoic acid | 0.07 mol | CC=1C=C(C(=O)O)C=CC1OC | C9H10O3
reactant | thionyl chloride | 0.09 mol | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-methyl-4-methoxybenzoic acid chloride | CC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO2
